*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXC350ARA151MJA0G
*//   Date        : 2018/02/13
*//   Update 	  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------/

.SUBCKT HHXC350ARA151MJA0G_20deg-C 1 2

C1 4 2 1.28e-04
C2 5 2 2.28e-05
C3 6 2 1.23e-05
R1 3 4 1.38e-02
R2 4 5 7.58e-02
R3 5 6 1.45e+00
L1 1 3 4.50e-09

.ENDS
*$
